US04276304
2.4 g of 2-benzyloxyphenylglyoxal hydrate are dissolved in 3 ml of dimethylsulfoxide, and a solution of 1.9 g of α,α-dimethyl-2,3,4-trimethoxyphenethylamine in 5 ml of dimethylsulfoxide is added thereto. The mixture is stirred at 25° C. for one hour, whereby a solution of α-(α,α-dimethyl-2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 2.4 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-2,3,4-trimethoxyphenethylamine | 1.9 g | CC(CC1=C(C(=C(C=C1)OC)OC)OC)(C)N | C13H21NO3
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=C(C(=C(C=C1)OC)OC)OC)(C)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C28H31NO5
